US04279887
A solution of 17.9 g of octadecylamine in a mixture of 300 ml of ether and 10 ml of ethanol was reacted with a solution of 8.0 g of o-iodobenzoyl chloride in 25 ml of ether for 10 minutes. The precipitate which formed contained octadecylamine hydrochloride. This precipitate was recovered and discarded. The volume was thereafter reduced to approximately half at 65° on a water bath. The resulting precipitate was recovered in accordance with the procedure of Example 3. The crude product was recrystallized from benzene to yield 1.2 g of N-octadecyl-o-iodobenzamide as a white microcrystalline solid, m.p. 94°-96°, Rf 0.77.

reactant | octadecylamine | 17.9 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | o-iodobenzoyl chloride | 8.0 g | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
reactant | octadecylamine hydrochloride | Cl.C(CCCCCCCCCCCCCCCCC)N
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ether | 25 ml | CCOCC | C4H10O
product | N-octadecyl-o-iodobenzamide | 1.2 g | C(CCCCCCCCCCCCCCCCC)NC(C1=C(C=CC=C1)I)=O | C25H42INO
